US07030145B2
[3-(Biphenyl-4-sulfonyl)-6-methylpyridin-2-yl]-(2,4,6-trimethylphenyl)-amine
[3-(4-Bromobenzenesulfonyl)-6-methylpyridin-2-yl]-(2,4,6-trimethylphenyl)-amine, prepared as described in Example 46, (100 mg, 0.225 mmol), phenylboronic acid (32.9 mg, 0.269 mmol), Pd(PPh3)2Cl2 (7.7 mg, 0.011 mmol) and Ba(OH)2.8H2O (84.6 mg, 0.269 mmol) were heated at reflux in 1:1 dimethoxyethane/water (2 mL) for 20 h. The reaction was partitioned between EtOAc (100 mL) and water (20 mL) and the organic extract was washed with brine, dried, and stripped in vacuo. The residue was purified by silica gel chromatography (10% EtOAc/hexanes eluent) to give the title compound as a solid (47 mg, 47% yield), mp 140–141° C. mass spec. (AP+): m/z 443 (M+1).

reactant | [3-(4-Bromobenzenesulfonyl)-6-methylpyridin-2-yl]-(2,4,6-trimethylphenyl)-amine | BrC1=CC=C(C=C1)S(=O)(=O)C=1C(=NC(=CC1)C)NC1=C(C=C(C=C1C)C)C | C21H21BrN2O2S
reactant | phenylboronic acid | 0.225 mmol, 100 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
catalyst | Pd(PPh3)2Cl2 | 0.011 mmol, 7.7 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | dimethoxyethane water | 2 mL | C(OC)COC.O
product | [3-(Biphenyl-4-sulfonyl)-6-methylpyridin-2-yl]-(2,4,6-trimethylphenyl)-amine | 47 mg, 47% yield | C1(=CC=C(C=C1)S(=O)(=O)C=1C(=NC(=CC1)C)NC1=C(C=C(C=C1C)C)C)C1=CC=CC=C1 | C27H26N2O2S
